US04199363
2-[3,3-bis(methylsulfonyl)allylidene]-3-ethylbenzoxazoline;
2-[3,3-bis(methylsulfonyl)allylidene]-3-methylthiazolidine; 2-[3,3-bis(heptylsulfonyl)allylidene]-2-ethylbenzoxazoline; 3-ethyl-2-(3,3-diphenoxysulfonylallylidene)benzoxazoline; 3-methyl-2-(3,3-diphenoxysulfonylallylidene)thiazolidine; bis[bis(methylsulfonyl)methane] trimethine oxonol, sodium salt; and bis(diphenylmethanedisulfonate)trimethine oxonol, pyridine salt.

reactant | 2-[3,3-bis(methylsulfonyl)allylidene]-3-methylthiazolidine | CS(=O)(=O)C(=CC=C1SCCN1C)S(=O)(=O)C | C9H15NO4S3
reactant | 3-ethyl-2-(3,3-diphenoxysulfonylallylidene)benzoxazoline | C(C)N1C(OC2=C1C=CC=C2)=CC=C(S(=O)(=O)OC2=CC=CC=C2)S(=O)(=O)OC2=CC=CC=C2 | C24H21NO7S2
reactant | 3-methyl-2-(3,3-diphenoxysulfonylallylidene)thiazolidine | CN1C(SCC1)=CC=C(S(=O)(=O)OC1=CC=CC=C1)S(=O)(=O)OC1=CC=CC=C1 | C19H19NO6S3
reactant | sodium | [Na] | Na
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[3,3-bis(methylsulfonyl)allylidene]-3-ethylbenzoxazoline | CS(=O)(=O)C(=CC=C1OC2=C(N1CC)C=CC=C2)S(=O)(=O)C | C14H17NO5S2
